US06242561B1
3,4-Di(hexadecanoylamino)thiophene
This compound was prepared in a yield of 70% of theory starting from 3,4-diaminothiophene and palmitoyl chloride (boiling point 141° C. at 1.4 mbar) in a similar manner to above. The melting point was 107-109° C. (from toluene-hexane).

reactant | 3,4-diaminothiophene | NC1=CSC=C1N | C4H6N2S
reactant | palmitoyl chloride | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | toluene hexane | C1(=CC=CC=C1)C.CCCCCC
product | 3,4-Di(hexadecanoylamino)thiophene | yield of 70% | C(CCCCCCCCCCCCCCC)(=O)NC1=CSC=C1NC(CCCCCCCCCCCCCCC)=O | C36H66N2O2S
